US05036077
(A) 3-(2,4-Dichlorophenoxy)-1,2-epoxypropane
A mixture containing 81.5 g of 2,4-dichlorophenol in 120 g of 1-chloro-2,3-epoxypropane and 138 g of potassium carbonate is refluxed for 10 hours.

reactant | 2,4-dichlorophenol | 81.5 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2,3-epoxypropane | 120 g | ClCC1CO1 | C3H5ClO
product | 3-(2,4-Dichlorophenoxy)-1,2-epoxypropane | ClC1=C(OCC2CO2)C=CC(=C1)Cl | C9H8Cl2O2
